Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Paxil / Flexeril / tetanus and diphtheria toxoids
 
Attending: ___
 
Chief Complaint:
Abrupt-onset headaches
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo woman with history of unclear
mitochondrial disorder who presents with 3 days of severe
headache, found to have convexal SAH at ___. 

Ms. ___ began to have a GI illness on ___
with nausea, postprandial abdominal cramping and loose stools. 
___ she was sitting on the toilet but not bearing down when
she had abrupt onset of severe headache. It significantly
decreased in severity after approx. 20 minutes. She took her BP,
which was 180s/90s, and called her PCP, who she says recommended
watchful waiting. While on the phone with her PCP she checked 
her
BP again and it was 195/108. 
The headache continued at this lower level for the next ___ 
hours.
The headache is posterior and worsens with lying flat. 
___ at 1400, she was again sitting on the toilet but not
bearing down when the severe headache abruptly returned. This
time it did not get better with time and she presented to ___ there showed L parietal convexal SAH, and she 
was
transferred to ___. 
Evaluated by neurosurgery who felt that this is unlikely to
represent an aneurysmal SAH. 

Regarding her history of mitochondrial disorder, she states that
years ago he followed with a doctor at ___ and ___ who
performed a muscle biopsy.  She says that she has the pathology
report at home, but says it states it found mitochondrial
disease, and a rare fiber defect in ___, she saw a
neurologist at ___ to reestablish care for the mitochondrial
disease.  She attributes multiple symptoms to this, including
chronic perioral, finger, toe paresthesiae as well as occasional
episodes where she feels weak all over, and may have to crawl
instead of walk.
 
Past Medical History:
Mitochondrial disorder
Fibromyalgia
Fallopian tube malignancy, ___, in remission

 
Social History:
___
Family History:
Mother with hypertension, hyperlipidemia
Father with lung cancer, CAD
Sister with hypertension
No family history of DVT/PE, nor other blood clotting problems.

 
Physical Exam:
ADMISSION EXAM

Vitals:  T: 98.0 HR: 63 BP: 109/71 RR: 17 SaO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name ___ backward
without difficulty. Speech is fluent with normal grammar and
syntax. No paraphasic errors. Naming intact to low frequency
words. Comprehension intact to complex, cross-body commands.
Normal prosody. 

-Cranial Nerves: PERRL 3->2. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii
bilaterally. Tongue protrudes in midline and moves briskly to
each side. No dysarthria. 

- Motor:  Normal bulk and tone. No drift. No tremor nor
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc         
L  5    ___   ___  5   5    5  5                 
R  5    ___   ___  5   5    5  5                   

-DTRs:
   Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
 L  2  2    2    2   4                    +
 R  2  2    2    2   4                    +
2 beats clonus bilateral ankles. 
Plantar response was extensor on left, mute on R. 

-Sensory: Proprioception intact to medium excursions BLE. Intact
to LT, temp throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: Normal initiation. Narrow base. Normal stride length and
arm swing.

===============================================

DISCHARGE EXAM

Vitals: T: 97.5 BP: 135/91 HR: 57 RR: 12 SpO2: 96% RA
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, cooperative. Able to relate
history without difficulty. Speech is fluent with intact 
comprehension.

-Cranial Nerves: PERRL 4->3. VFF to confrontation. EOMI without
nystagmus. Facial sensation intact to light touch. Face 
symmetric
at rest and with activation. Hearing intact to conversation.
Palate elevates symmetrically. ___ strength in trapezii
bilaterally. Tongue protrudes in midline and moves briskly to
each side. No dysarthria. 

- Motor:  No pronator drift.
  Delt Bic Tri WrE FFl FE* IO IP Quad Ham* TA 
L  5    ___   5  4+  ___    4+  5                 
R  5    ___   5  4+  ___    4+  5                   
*Pain limited.

-DTRs: ___ responses flexor bilaterally.

-Sensory: Intact to LT throughout. 

- Coordination: No dysmetria with finger to nose testing
bilaterally. 

- Gait: Deferred.
 
Pertinent Results:
LABORATORY STUDIES

___ 10:54AM BLOOD WBC-6.5 RBC-4.21 Hgb-12.5 Hct-39.5 MCV-94 
MCH-29.7 MCHC-31.6* RDW-12.6 RDWSD-43.6 Plt ___
___ 10:54AM BLOOD Plt ___
___ 10:54AM BLOOD Glucose-83 UreaN-15 Creat-0.7 Na-144 
K-4.0 Cl-105 HCO3-24 AnGap-15
___ 10:54AM BLOOD Calcium-9.2 Phos-2.5* Mg-2.0

IMAGING

CTA HEAD W&W/O C & RECONS (PRELIMINARY)
CT HEAD WITHOUT CONTRAST: 
Area of subarachnoid hemorrhage is seen in the left superior 
parietal lobe 
measuring up to 2.2 cm (02:26). Prior images are unavailable for 
comparison of interval change. There is no evidence of acute 
large territory ischemic infarction, edema, or mass effect. 
Moderate-sized right maxillary sinus mucous retention cyst. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal with no evidence of 
stenosis, occlusion, or aneurysm. 
  
Final read pending completion of 3D reformats. 

MR HEAD W & W/O CONTRAST
1. Re-demonstration of subarachnoid hemorrhage over the left 
parietal 
convexity.  No new foci of hemorrhage. 
2. No evidence of mass, infarct, or abnormal enhancement after 
contrast 
administration. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with history notable 
for fibromyalgia and abnormal muscle biopsy who presents with 3 
days of severe abrupt-onset headaches, found to have convexal 
SAH on CT imaging at OSH. Follow-up MRI redemonstrated cSAH 
without evidence of underlying mass, vascular malformation, or 
microhemorrhages. Accordingly, in the absence of anatomic or 
traumatic etiologies for the cSAH, suspicion was raised for 
reversible cerebral vasoconstriction syndrome (RCVS). Although 
Ms. ___ did not report recent changes to her SSRI, 
SSRI medications have been associated with worsening RCVS, so 
her escitalopram was discontinued. A review of her dietary 
supplements also did not reveal a studied cause of worsening 
RCVS, though a recommendation was made to discontinue these 
medications if a clear medical indication was not present given 
the potential risk for interaction with her RCVS. Follow-up 
arranged with vascular neurology for likely re-imaging to assess 
for vasospasm, and encouraged follow-up with rheumatology to 
discuss alternate treatment options for fibromyalgia and with 
outpatient neurologist for review of muscle biopsy (which, per 
___ records, revealed abnormal mitochondrial morphology but did 
not include a pathologic diagnosis of mitochondrial disease).

She should continue with Verapamil as a treatment for her RVCS 
until she sees Dr. ___ in clinic in a few months.

TRANSITIONAL ISSUES
1. Consider repeat CT/CTA to assess for evidence of 
vasoconstriction.
2. Please consider alternatives to SSRIs for management of 
fibromyalgia due to concern for vasoconstriction in setting of 
RCVS.
 
Medications on Admission:
1. melatonin 1 mg oral QHS 
2. Multivitamins 1 TAB PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Fish Oil (Omega 3) 1200 mg PO DAILY 
6. LevoCARNitine 800 mg PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. Co Q-10 (coenzyme Q10) 100 mg oral DAILY 

 
Discharge Medications:
1.  Verapamil SR 120 mg PO Q24H 
RX *verapamil 120 mg 1 (One) tablet(s) by mouth at bedtime Disp 
#*28 Tablet Refills:*0 
2. HELD- Co Q-10 (coenzyme Q10) 100 mg oral DAILY  This 
medication was held. Do not restart Co Q-10 until advised to do 
so by your PCP.
3. HELD- Cyanocobalamin 1000 mcg PO DAILY  This medication was 
held. Do not restart Cyanocobalamin until advised to do so by 
your PCP.
4. HELD- Fish Oil (Omega 3) 1200 mg PO DAILY  This medication 
was held. Do not restart Fish Oil (Omega 3) until advised to do 
so by your PCP.
5. HELD- LevoCARNitine 800 mg PO DAILY  This medication was 
held. Do not restart LevoCARNitine until advised to do so by 
your PCP.
6. HELD- melatonin 1 mg oral QHS  This medication was held. Do 
not restart melatonin until advised to do so by your PCP.
7. HELD- Multivitamins 1 TAB PO DAILY  This medication was held. 
Do not restart Multivitamins until advised to do so by your PCP.
8. HELD- Vitamin E 400 UNIT PO DAILY  This medication was held. 
Do not restart Vitamin E until advised to do so by your PCP.
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Convexal subarachnoid hemorrhage likely due to reversible 
cerebral vasoconstriction syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for 
evaluation of recurrent headaches. Imaging showed bleeding on 
the surface of the back of your brain (called a convexal 
subarachnoid hemorrhage) that was likely due to reversible 
cerebral vasoconstriction syndrome (RCVS). Although a clear 
trigger for your RCVS was not found, SSRI-type medications such 
as your escitalopram have been associated with worsening RCVS, 
so we advise stopping this medication. Also, although a clear 
link has not been established between your supplements and RCVS, 
dietary supplements are not regulated by the FDA, and we cannot 
guarantee that they would be safe to take with your condition; 
accordingly, it would be safest to avoid these medications and 
discuss whether they are necessary with your primary care 
provider.

Please follow up with your primary care provider within one week 
of discharge. Please also follow up with your rheumatologist to 
discuss treatment options for your fibromyalgia. You will also 
have follow-up with Neurology to check in on your RCVS.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___